US04867915
8.4 ml (4.254 g, 31 mmol) of 3.79N ethereal ethylmagnesium bromide was added dropwise, under argon to a solution of 6.5 g (29 mmol) of 9-phenylthio-1,4,7-nonatriyne in 20 ml of anhydrous tetrahydrofuran. The temperature was maintained at -25° C. After the addition, the reaction mixture was stirred for 1 hour further at the same temperature and then 285 mg of cuprous cyanide were added. After the addition, the mixture was stirred for 20 minutes more at 0° C. and then treated with 12.2 g (44 mmol) of 7-iodo-5-heptynoic acid ethyl ester in 15 ml of anhydrous tetrahydrofuran. After the addition, the solution was stirred for an additional 3 hours at room temperature. The reaction mixture was then poured into 150 ml of 1N sulfuric acid and ice and the product extracted with ether (3×150 ml). The combined organic extract was concentrated to about 1/3 its original volume and washed 3 times with EDTAand water, dried over sodium sulfate and evaporated in vacuo. The crude material was purified by column chromatography on 100 g of silica gel, using hexane-ethyl acetate (95:5) as eluant, to obtain 16-phenylthiohexadeca-5,8,11,14-tetraynoic acid ethyl ester, as an oil. The product was stored in dry ice.

reactant | ethylmagnesium bromide | 31 mmol, 3.79N, 8.4 ml, 4.254 g | C(C)[Mg]Br
reactant | 9-phenylthio-1,4,7-nonatriyne | 29 mmol, 6.5 g | C1(=CC=CC=C1)SCC#CCC#CCC#C | C15H12S
reactant | 7-iodo-5-heptynoic acid ethyl ester | 44 mmol, 12.2 g | C(C)OC(CCCC#CCI)=O | C9H13IO2
reactant | sulfuric acid | 1N, 150 ml | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 16-phenylthiohexadeca-5,8,11,14-tetraynoic acid ethyl ester | C(C)OC(CCCC#CCC#CCC#CCC#CCC1=CC=CC=C1)=S | C24H24OS
